US08497368B2
(E)-1-(1-(3-(Quinolin-6-ylmethyl)-[1,2,4]-triazolo[4,3-b]pyridazin-6-yl)ethylideneamino)-imidazolidine-2,4-dione
The title compound (20 mg, 51%) was synthesized from 1-(3-(quinolin-6-ylmethyl)-[1,2,4]triazolo[4,3-b]pyridazin-6-yl)ethanone (30 mg, 0.1 mmol) and 1-aminoimidazolidine-2,4-dione (22.77 mg, 0.198 mmol) using the same procedure as described in the synthesis of example 37. 1H-NMR (400 MHz, DMSO-d6) δ ppm 11.44 (s, 1H), 9.05 (d, 1H), 8.70 (d, 1H), 8.32 (d, 1H), 8.12 (d, 2H), 7.98 (d, 1H), 7.87 (d, 1H), 7.77 (m, 1H), 4.83 (s, 2H), 4.54 (s, 2H), 2.40 (s, 3H). LCMS (method B): [MH]+=401.1, tR=1.64 min.

reactant | 1-(3-(quinolin-6-ylmethyl)-[1,2,4]triazolo[4,3-b]pyridazin-6-yl)ethanone | 0.1 mmol, 30 mg | N1=CC=CC2=CC(=CC=C12)CC1=NN=C2N1N=C(C=C2)C(C)=O | C17H13N5O
reactant | 1-aminoimidazolidine-2,4-dione | 0.198 mmol, 22.77 mg | NN1C(NC(C1)=O)=O | C3H5N3O2
product | (E)-1-(1-(3-(Quinolin-6-ylmethyl)-[1,2,4]-triazolo[4,3-b]pyridazin-6-yl)ethylideneamino)-imidazolidine-2,4-dione | 20 mg, 51% | N1=CC=CC2=CC(=CC=C12)CC1=NN=C2N1N=C(C=C2)\C(\C)=N\N2C(NC(C2)=O)=O | C20H16N8O2
